US05849911
1-[4-(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane
Under an argon atmosphere, 0.6 mmol of 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane and 198 μl (1.8 mmol) of NMM in 5.8 ml of DMF are added to 136 mg (0.72 nmol) of N-methoxycarbonyl-(L)-iso-leucine and 179 mg (0.60 mmol) of TPTU in 3 ml of DMF and the mixture is stirred at room temperature for 14 hours and worked up analogously to Example 3, yielding the title compound: TLC: Rf =0.59 (methylene chloride/THF 3:1); HPLC20-100 : tRet =14.0; FAB MS (M+H)+ =697.

reactant | 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | 0.6 mmol | S1C=NC=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)N | C27H35N5O4S
reactant | NMM | 1.8 mmol, 198 μl | CN1CCOCC1 | C5H11NO
reactant | N-methoxycarbonyl-(L)-iso-leucine | 0.72 nmol, 136 mg | COC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C8H15NO4
reactant | TPTU | 0.60 mmol, 179 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
solvent | DMF | 5.8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | S1C=NC=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O | C35H48N6O7S
